US04478750
1,2,3,4,5,6-Hexahydro-3-methyl-6-phenylazepino[4,5-b]indole (process b)
19.8 ml of a 35% formaldehyde solution and a spoonful of Raney Nickel are added to 20.4 g 1,2,3,4,5,6-hexahydro-6-phenylazepino[4,5-b]indole in 385 ml ethanol. The mixture is hydrogenated at room temperature. The mixture is then filtered and the filtrate concentrated to give a residue which is partitioned between ether and water. The ether phase is dried over sodium sulphate and concentrated to give the title compound as an oil which is converted into the hydrochloride, m.p. 236°-238° (from ether/ethanol).

reactant | formaldehyde | C=O | CH2O
reactant | 1,2,3,4,5,6-hexahydro-6-phenylazepino[4,5-b]indole | 20.4 g | C1(=CC=CC=C1)N1C2=C(C=3C=CC=CC13)CCNCC2 | C18H18N2
catalyst | Raney Nickel | [Ni] | Ni
solvent | ethanol | 385 ml | C(C)O | C2H6O
product | 1,2,3,4,5,6-Hexahydro-3-methyl-6-phenylazepino[4,5-b]indole | CN1CCC=2N(C=3C=CC=CC3C2CC1)C1=CC=CC=C1 | C19H20N2
